US04407746
N-t-Butyloxycarbonyl-Phenylalanyl-3-aminobenzyl Alcohol
N-t-butyloxycarbonylphenylalanine (1.00 g, 3.8 mmole) is dissolved in 4 ml of dichloromethane, in which is then suspended m-aminobenzyl alcohol. The cooled mixture is treated with 0.78 g (3.8 mmole) of dicyclohexylcarbodiimide for 12 to 24 hours. Dicyclohexylurea is removed by filtration, using an ethyl acetate wash. The filtrate is extracted three times with saturated aqueous potassium bisulfate, three times with aqueous potassium bicarbonate, and once with brine. The organic layer is dried over magnesium sulfate, filtered, and blown dry under flowing nitrogen. Column chromatography using silica gel and chloroform eluent produces, after removal of solvent, 1.19 g (3.2 mmole) of pure product. Structure assignment is supported by elemental analysis (C,H,N).

reactant | N-t-butyloxycarbonylphenylalanine | 3.8 mmole, 1.00 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | m-aminobenzyl alcohol | NC=1C=C(CO)C=CC1 | C7H9NO
reactant | dicyclohexylcarbodiimide | 3.8 mmole, 0.78 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-t-Butyloxycarbonyl-Phenylalanyl-3-aminobenzyl Alcohol | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)C(C1=CC(=CC=C1)N)O | C21H26N2O4
